US07700589B2
33c) 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylic acid-[(R)-1-(3,4-diethyl-benzyl)-2-(4,4-difluoro-1,4′-bipiperidinyl-1′-yl)-2-oxo-ethyl]-amide
Prepared analogously to Example 9i) from 400 mg (0.81 mmol) (R)-3-(3,4-diethyl-phenyl)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid and 200 mg (0.98 mmol) 4,4-difluoro-[1,4′]bipiperidinyl.

reactant | (R)-3-(3,4-diethyl-phenyl)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid | 0.81 mmol, 400 mg | C(C)C=1C=C(C=CC1CC)C[C@H](C(=O)O)NC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C28H36N4O4
reactant | 4,4-difluoro-[1,4′]bipiperidinyl | 0.98 mmol, 200 mg | FC1(CCN(CC1)C1CCNCC1)F | C10H18F2N2
product | 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylic acid-[(R)-1-(3,4-diethyl-benzyl)-2-(4,4-difluoro-1,4′-bipiperidinyl-1′-yl)-2-oxo-ethyl]-amide | C(C)C=1C=C(C[C@H](C(=O)N2CCC(CC2)N2CCC(CC2)(F)F)NC(=O)N2CCC(CC2)N2C(NC3=C(CC2)C=CC=C3)=O)C=CC1CC | C38H52F2N6O3
